US08802674B2
1-{2-[2-Methoxy-4-(morpholine-4-carbonyl)-phenylamino]-4-methylamino-pyrimidin-5-yl}-ethanone
A mixture of (4-(5-bromo-4-(methylamino)pyrimidin-2-ylamino)-3-methoxyphenyl)(morpholino)methanone (100 mg, 0.24 mmol), Pd(PPh3)4 (36 mg, 0.03 mmol) and tributylethoxyvinyltin (0.16 mL, 0.47 mmol) in toluene was stirred in a sealed tube at 110° C. for 1 hour. The reaction mix was filtered and concentrated. The reaction mixture was filtered through a pad of silica gel (eluted with 0-100% EtOAc in heptane) to give the crude product. Purification of the crude product was achieved by reverse phase HPLC (9 mg, 10%). Additional compounds made using the above procedure are shown in Table 4 above.

reactant | (4-(5-bromo-4-(methylamino)pyrimidin-2-ylamino)-3-methoxyphenyl)(morpholino)methanone | 0.24 mmol, 100 mg | BrC=1C(=NC(=NC1)NC1=C(C=C(C=C1)C(=O)N1CCOCC1)OC)NC | C17H20BrN5O3
reactant | tributylethoxyvinyltin | 0.47 mmol, 0.16 mL | C(CCC)[Sn](C=COCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.03 mmol, 36 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-{2-[2-Methoxy-4-(morpholine-4-carbonyl)-phenylamino]-4-methylamino-pyrimidin-5-yl}-ethanone | COC1=C(C=CC(=C1)C(=O)N1CCOCC1)NC1=NC=C(C(=N1)NC)C(C)=O | C19H23N5O4
